* Z:\home\iwolfs\Projects\Electronics\KiCad_Projects\bldc_project\simulations\MC34063_buck.asc
V1 vdd 0 12 Rser=0.3
R1 vdd swc 0.33
C2 ct 0 524.8p
D1 0 swe 1N5819
L1 swe Vo 81.288µ Rser=0.5
R2 Vo cinv 3.6k
R3 cinv 0 1.2k
I1 Vo 0 0.5m
R4 Vo 0 10
C3 Vo 0 1000µ Rser=0.1 IC=0
C1 vdd 0 220µ Rser=0.1 IC=25
XU1 swc swe ct 0 cinv vdd swc swc MC34063
.model D D
.lib C:\users\iwolfs\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0 30m 1u 100n uic
.inc MC34063.lib
.options Gmin=1e-9  method=Gear
* A DC/DC BUCK CONVERTER WITH A MOTOROLA MC34063\nTest circuit and models from Helmut Sennewald    03/14/2004\nThe symbol is from Drew.\n \nDon't remove this copyright notice.\nThe used models are property of ONSEMI and/or  Intusoft(www.intusoft.com).\nThey are from ONsemi's webpage and also from the Intusoft's SPICE (ICAP/4 demo 8.3.10).\nThe links are www.onsemi.com and www.intusoft.com .\n \n \nThree of the models have been modified to LTSPICE syntax.\nThe PSPICE model runs without** any modifiacation in LTSPICE.\nSo we have now three models available for the 34063 and one model for the MC33063. \nThe MC34063 model and the MC34063p model have the closest match, but I don't\nknow if they best match the real part.\n \n    MC34063   (modified* original model included in ICAP/4 demo)\n    MC34063p  (original ONsemi PSPICE model) **\n    MC34063a  (modified* original ONsemi model for ICAP/4 demo)\n    MC33063    (modified* original ONsemi model for ICAP/4 demo) \n \n   *   Means syntax of IF-THEN-ELSE statement adapted to LTSPICE\n       All SPICE command lines starting with a comment "*" have been \n       changed to be compatible with LTSPICE. \n      \n   ** This has been possible without modification, because no SW(itch) statement \n       has been used.  VT and VH of SW are defined differently in PSPICE.\n \nSet the initial conditions of the capacitors C1 and C3 accordingly to your simulation needs.\nThese are the IC=...  properties of the filter capacitors in the schematic.
.lib Z:\home\iwolfs\Projects\Electronics\KiCad_Projects\bldc_project\simulations\spice_libs\mc34063.lib
.backanno
.end
